US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[3-({2-[(phenylmethyl)oxy]phenyl}oxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0492 g, 0.168 mmol) and 1-[(3-bromopropyl)oxy]-2-[(phenylmethyl)oxy]benzene (0.0706 g, 0.220 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0735 g, 71.4%). EI-MS m/z 533(M+) Rt (2.25 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.168 mmol, 0.0492 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 1-[(3-bromopropyl)oxy]-2-[(phenylmethyl)oxy]benzene | 0.220 mmol, 0.0706 g | BrCCCOC1=C(C=CC=C1)OCC1=CC=CC=C1 | C16H17BrO2
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[3-({2-[(phenylmethyl)oxy]phenyl}oxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0735 g, 71.4% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCOC2=C(C=CC=C2)OCC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C36H40NO3.BrH/c38-36(31-15-6-2-7-16-31,32-17-8-3-9-18-32)35-21-25-37(26-22-35,27-23-35)24-12-28-39-33-19-10-11-20-34(33)40-29-30-13-4-1-5-14-30;/h1-11,13-20,38H,12,21-29H2;1H/q+1;/p-1
